US05763450
13bm) 4.3 g of ethyl 2-(4-bromo-2-chloro-benzoyl)-3-[2-(tert.-butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethylamino]-acrylate (Example 13bl)) were dissolved in 40 ml of dimethyl sulphoxide under argon, treated with 1.1 g of potassium tert.-butylate and stirred for 15 min. Then, the mixture was stirred at 50° for 1.5 hrs. After cooling the mixture was diluted with 200 ml of water and the product was then extracted with two 200 ml portions of ethyl acetate, purified by silica gel chromatography in hexane/ethyl acetate 1:1 and crystallized from 30 ml of hexane/ethyl acetate 1:1. 2.45 g (62%) of ethyl 7-bromo-1-[2-(tert.-butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-4-oxo-1,4-dihydro-quinoline-3-carboxylate were obtained as white crystals. M.p. 133° C.

reactant | ethyl 2-(4-bromo-2-chloro-benzoyl)-3-[2-(tert.-butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethylamino]-acrylate | 4.3 g | BrC1=CC(=C(C(=O)C(C(=O)OCC)=CNC(CO[Si](C)(C)C(C)(C)C)(C)C)C=C1)Cl | C22H33BrClNO4Si
solvent | dimethyl sulphoxide | 40 ml | CS(=O)C | C2H6OS
solvent | water | 200 ml | O | H2O
product | ethyl 7-bromo-1-[2-(tert.-butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-4-oxo-1,4-dihydro-quinoline-3-carboxylate | 2.45 g, 62% | BrC1=CC=C2C(C(=CN(C2=C1)C(CO[Si](C)(C)C(C)(C)C)(C)C)C(=O)OCC)=O | C22H32BrNO4Si
